US07728029B2
Ethyl 3,3-diethoxypropionate (100 g, 525.7 mmol) was dissolved in THF (360 ml) at room temp. Ethyl formate (175.1 ml, 2.1 mol) was added at room temp. The solution was cooled in an ice-bath to 0° C. and tBuOK (1M solution in THF, 1,156 ml, 1.156 mol) was added via an addition funnel slowly over 30 min, maintaining internal temperature below 5° C. The color changed instantly from colorless to dark orange. The reaction mixture was allowed to warm up to room temp. and stirred for 2 h. The reaction was allowed to stir at room temp. for 18 h. The reaction mixture was concentrated in vacuo and 1 L of solvent was removed. The remaining brownish solution with white solid in it was cooled in an ice-bath and hydrochloric acid (6N, 200 ml) was added to adjust pH=3, maintaining internal temperature below 20° C. The resulting bright yellow suspension was then warmed up to room temp. and stirred for 1 h. Additional 700 ml solvent was removed in vacuo at room temp. Water (400 ml) was added to dissolve all the white solid and ethyl acetate (500 ml) was added and the mixture transferred to a separatory funnel. The aqueous was extracted once with ethyl acetate (200 ml). The combined organic extracts was washed once with brine (100 ml). After drying over MgSO4 and concentrating in vacuo, 2-formyl-3-oxo-propionic acid ethyl ester (75.85 g) was obtained as yellow oil.

reactant | Ethyl 3,3-diethoxypropionate | 525.7 mmol, 100 g | C(C)OC(CC(=O)OCC)OCC | C9H18O4
reactant | Ethyl formate | 2.1 mol, 175.1 ml | C(=O)OCC | C3H6O2
reactant | tBuOK | 1.156 mol, 1M, 1,156 ml | C(C)(C)(C)O[K]
solvent | THF | 360 ml | C1CCOC1 | C4H8O
product | 2-formyl-3-oxo-propionic acid ethyl ester | 75.85 g | C(C)OC(C(C=O)C=O)=O | C6H8O4
